US04224344
To a solution of 9-formyl-9,10-dihydro-9,10-methanoanthracene (3.5 g) in acetone (17 ml) was dropwise added Jones' reagent (5.0 ml) at room temperature. The reaction mixture was stirred at room temperature for 1 hour, diluted with water and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9,10-dihydro-9,10-methanoanthracene-9-carboxylic acid. M.P. 199.5°-200.5° C.

reactant | 9-formyl-9,10-dihydro-9,10-methanoanthracene | 3.5 g | C(=O)C12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H12O
reactant | Jones' reagent | 5.0 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 17 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 9,10-dihydro-9,10-methanoanthracene-9-carboxylic acid | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)O | C16H12O2
